US04745229
2.36 g (9.41 mmols) of 6-chloro-3,7-dimethyl-2,7-octadienyl acetate (purity: 92%), 92 mg (0.93 mmols) of copper(I) chloride and 3.65 g (29.6 mmols) of triethylamine N-oxide (purity: 95%) were placed in a flask, to which 5 ml of dioxane was added, followed by agitation of the mixture at 50° C. for 10 hours. 40 ml of water was added to the reaction mixture, after which it was extracted twice each with 70 ml of diethyl ether. The resultant extract was successively washed with each 20 ml of 3% sulfuric acid, a saturated sodium hydrogen carbonate aqueous solution and a saturated ammonium chloride aqueous solution, and dried with magnesium sulfate. The solvent was distilled off from the solution and the resultant residue was purified by column chromatography using silica gel [eluent: ethyl acetate/hexane (ratio by volume)=1/9-1/3], thereby obtaining 1.21 g of 8-acetoxy-2,6-dimethyl-2,6-octadienal. Yield: 61%. The results of the instrumental analysis were found to be substantially coincident with those obtained in Example 9(b).

reactant | 6-chloro-3,7-dimethyl-2,7-octadienyl acetate | 9.41 mmols, 2.36 g | C(C)(=O)OCC=C(CCC(C(=C)C)Cl)C | C12H19ClO2
reactant | triethylamine N-oxide | 29.6 mmols, 3.65 g | C(C)[N+](CC)(CC)[O-] | C6H15NO
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) chloride | 0.93 mmols, 92 mg | [Cu]Cl
solvent | water | 40 ml | O | H2O
product | 8-acetoxy-2,6-dimethyl-2,6-octadienal | 1.21 g, Yield: 61% | C(C)(=O)OCC=C(CCC=C(C=O)C)C | C12H18O3
